US07129235B2
1-(3-chloro-2-pyridinyl)-3-hydroxy-4-piperidinecarboxylic acid
Ethyl 1-(3-chloro-2-pyridinyl)-3-hydroxy-4-piperidinecarboxylate in water (55 mL) was treated with sodium methoxide (0.5 M, 8 mL, 4.0 mmol) at room temperature. After 2 hours, the mixture was concentrated under reduced pressure and the residue was purified by column chromatography to provide the title compound. MS (EI, M+H)+257.

reactant | Ethyl 1-(3-chloro-2-pyridinyl)-3-hydroxy-4-piperidinecarboxylate | ClC=1C(=NC=CC1)N1CC(C(CC1)C(=O)OCC)O | C13H17ClN2O3
reactant | sodium methoxide | 4.0 mmol, 0.5 M, 8 mL | C[O-].[Na+]
solvent | water | 55 mL | O | H2O
product | 1-(3-chloro-2-pyridinyl)-3-hydroxy-4-piperidinecarboxylic acid | ClC=1C(=NC=CC1)N1CC(C(CC1)C(=O)O)O | C11H13ClN2O3
